US03971800
b. 6-Chloro-4-ethylamino-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester
27.9 g. of 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester (0.1 mol.) are dissolved in 100 ml. of ethyl alcohol and 12 g. of triethylamine. At reflux temperature a solution of 4.5 g. of ethylamine in 50 ml. of alcohol is slowly added dropwise with continual stirring. After the addition is completed, the reaction mixture is refluxed for an additional 30 minutes. The solvent is then removed in vacuo and the residue is dissolved in 300 ml. of petroleum ether. The triethylamine hydrochloride is filtered off and the filtrate cooled to 0°; 6-chloro-4-ethylamino-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester crystallizes, yield: 69%, m.p. 36°-37° (methanol).

reactant | 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | 0.1 mol | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])Cl)C | C9H8Cl2N2O4
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | ethylamine | C(C)N | C2H7N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-Chloro-4-ethylamino-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | yield: 69% | C(C)OC(=O)C=1C(=NC(=C(C1NCC)[N+](=O)[O-])Cl)C | C11H14ClN3O4
